US07501412B2
A mixture (1:1, 17.5 g) of α-(1-ethoxycarbonylpiperidin-4-yl)carbonylphenylacetonitrile and α-(1-methoxycarbonylpiperidin-4-yl)carbonylphenylacetonitrile, hydroxylamine hydrochloride (5.63 g) and sodium acetate (13.1 g) were suspended in water (20 mL) and ethanol (160 mL), and the suspension was heated under reflux for 6 hrs. After the completion of the reaction, the mixture was cooled to room temperature. The insoluble material was filtered off using ethanol, and the filtrate was concentrated under reduced pressure. The residue was dissolved in chloroform, and washed with water and saturated brine. The chloroform layer was concentrated under reduced pressure, and the obtained crystals were purified by column chromatography (n-hexane:ethyl acetate=3:1→1:1) to give a mixture (1:1, 7.02 g) of 5-amino-3-(1-ethoxycarbonylpiperidin-4-yl)-4-phenylisoxazole and 5-amino-3-(1-methoxycarbonylpiperidin-4-yl)-4-phenylisoxazole as pale-yellow crystals.

reactant | α-(1-ethoxycarbonylpiperidin-4-yl)carbonylphenylacetonitrile | 17.5 g | C(C)OC(=O)N1CCC(CC1)C(=O)C(C#N)C1=CC=CC=C1 | C17H20N2O3
reactant | α-(1-methoxycarbonylpiperidin-4-yl)carbonylphenylacetonitrile | COC(=O)N1CCC(CC1)C(=O)C(C#N)C1=CC=CC=C1 | C16H18N2O3
reactant | hydroxylamine hydrochloride | 5.63 g | Cl.NO
reactant | sodium acetate | 13.1 g | C(C)(=O)[O-].[Na+]
solvent | water | 20 mL | O | H2O
solvent | ethanol | 160 mL | C(C)O | C2H6O
product | 5-amino-3-(1-ethoxycarbonylpiperidin-4-yl)-4-phenylisoxazole | 7.02 g | NC1=C(C(=NO1)C1CCN(CC1)C(=O)OCC)C1=CC=CC=C1 | C17H21N3O3
